US09376442B2
tert-Butyl(diphenyl)({4-[(trimethylsilyl)oxy]cyclohex-3-en-1-yl}oxy)silane
Trimethylsilyl trifluoromethanesulfonate (45.0 g; 198.8 mmol) is dropped into a solution of known 4{[tert-butyl(diphenyl)silyl]oxy}cyclohexanone [Okamura, W. H.; Elnagar, H. Y.; Ruther, M.; Dobreff, S. J. Org. Chem. 1993, 58, 600] (58.4 g, 165.5 mmol) and triethylamine (55.4 mL; 397.6 mmol) in dichloromethane (500 mL) at −78° C. under an atmosphere of nitrogen. After one hour the reaction mixture is allowed to warm to 0° C. and quenched with saturated NaHCO3-solution (120 mL). The organic layer is separated, dried over MgSO4 and concentrated under reduced pressure. A 1:1-mixture of tert-BuOMe and hexane is added to the biphasic residue. The organic layer is separated, washed with saturated NaHCO3-solution and dried over MgSO4. The solvent is removed under reduced pressure to deliver 69.0 g of the title compound as colourless oil.

reactant | Trimethylsilyl trifluoromethanesulfonate | 198.8 mmol, 45.0 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 4{[tert-butyl(diphenyl)silyl]oxy}cyclohexanone | 165.5 mmol, 58.4 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CCC(CC1)=O | C22H28O2Si
reactant | triethylamine | 397.6 mmol, 55.4 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | tert-Butyl(diphenyl)({4-[(trimethylsilyl)oxy]cyclohex-3-en-1-yl}oxy)silane | C(C)(C)(C)[Si](OC1CC=C(CC1)O[Si](C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H36O2Si2
